US08106035B2
To a solution of methoxymethyl t-butyl sulphide XIV(ii) (2.68 g, 0.020 mol) in MeOH (80 mL) was added a solution of potassium peroxymonosulfate (2 KHSO5 KHSO4 K2SO4, Oxone®) (36.8 g, 0.060 mol) in water (80 mL) at 0° C. The resulting cloudy solution was warmed to room temperature and then stirred overnight. The mixture was diluted with water (30 mL), extracted with EtOAc (3×70 mL), washed with brine, dried over MgSO4, concentrated in vacuo, and then purified by column chromatography (25% EtOAc/hexanes) to give 3.05 g (92%) of Methoxymethyl t-butyl sulfone XII(iii) as a colorless oil: 1H NMR (400 MHz, CDCl3) δ 4.50 (s, 2H), 3.63 (s, 3H), 1.38 (s, 9H); 13NMR (100 MHz, CDCl3) δ 83.19, 60.84, 59.61, 23.32.

reactant | methoxymethyl t-butyl sulphide | C(C)(C)(C)SCOC | C6H14OS
reactant | potassium peroxymonosulfate | 0.060 mol, 36.8 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | water | 80 mL | O | H2O
reactant | water | 30 mL | O | H2O
solvent | MeOH | 80 mL | CO | CH4O
product | Methoxymethyl t-butyl sulfone | 3.05 g, 92% | C(C)(C)(C)S(=O)(=O)COC | C6H14O3S
